*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : 1217AS-H-4R7N
* Property : L = 4.7uH
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 10kHz - 3GHz
*   Temperature = 20 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT 1217AS-H-4R7N port1 port2
C1 port1 port2 1.50e-12
L2 port1 1 4.50e-6
R2 1 port2 1.01e-2
R3 port1 port2 6.99e+3
C4 port1 2 1.01e-12
L4 2 3 1.15e-4
R4 3 port2 1.78e+4
C5 port1 4 4.63e-14
L5 4 5 1.10e-6
R5 5 port2 7.41e+2
L6 port1 6 8.27e-5
R6 6 port2 2.16e+2
L7 port1 7 1.50e-4
R7 7 port2 6.67e+1
C8 port1 8 1.57e-12
L8 8 9 1.71e-8
R8 9 port2 1.74e+1
.ENDS 1217AS-H-4R7N
*----------------------------------------------------------------------
