*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : 1274AS-H-4R7N
* Property : L = 4.7uH
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 10kHz - 3GHz
*   Temperature = 20 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT 1274AS-H-4R7N port1 port2
C1 port1 port2 1.84e-12
L2 port1 1 4.20e-6
R2 1 port2 8.83e-3
R3 port1 port2 1.01e+4
C4 port1 2 2.48e-12
L4 2 3 1.77e-8
R4 3 port2 1.00e+1
C5 port1 4 2.92e-13
L5 4 5 3.79e-8
R5 5 port2 7.42e+1
C6 port1 6 1.50e-13
L6 6 7 1.94e-8
R6 7 port2 1.48e+2
C7 port1 8 5.69e-12
L7 8 9 9.30e-5
R7 9 port2 1.07e+4
L8 port1 10 6.33e-5
R8 10 port2 4.26e+1
L9 port1 11 7.44e-5
R9 11 port2 1.99e+2
.ENDS 1274AS-H-4R7N
*----------------------------------------------------------------------
