* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.

.subckt AP2127_ADJ  1 2 3 4 5
* NODES: VIN GND EN ADJ VOUT
M1 5 9 1 1 MOD1 L=1u W=1000u
R1 6 1 1E6
C1 9 1 20E-12
C2 5 9 20E-12
G1 2 20 4 12 6E-6
G2 2 22 12 4 6E-6
F1 22 2 VS 1
F2 1 6 VS 20
G3 6 1 22 2 100E-6
R3 20 23 10E3
VS 23 2 0
C3 20 2 310E-15  
C4 20 5 10E-12
R2 22 2 5E6
R5 22 24 400E3
C5 24 2 20E-12
D1 5 1 Dmod1
R6 3 13 20E4
R7 3 2 3E6
C6 13 2 4E-6
R8 1 5 50E6
R9 6 9 20E3
R10 2 12 Rmod1 1 
R40 5 2 5E4
S1 1 6 13 2 Smod1
I1 2 12 0.8
.MODEL MOD1 PMOS (VTO=-0.82 RS=0.2 RD=0.2 IS=1E-15 KP=0.73 KF=2e-19 AF=1.22)
.MODEL Dmod1 D (IS=1E-13 RS=0.5 N=1)
.MODEL Dmod2 D (IS=1E-13 RS=0.1 N=0.5)
.MODEL Rmod1 RES (TC1=-3E-5 TC2=-1E-7)
.MODEL Smod1 VSWITCH RON=1E-3 ROFF=10E6  VON=0.5 VOFF=1.2 
.ENDS AP2127_ADJ
*
