*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM31KN121SH1
* Property : Z@100MHz = 120[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM31KN121SH1 port1 port2
R1 port1 1 88.98
L1 port1 1 4.073e-7
C2 1 2 2.661e-10
R2 2 3 57.74
L2 1 3 4.289e-8
C1 port1 3 1.684e-12
R3 3 4 51.30
L3 3 4 1.633e-8
R4 4 port2 7.000e-3
.ENDS BLM31KN121SH1
*----------------------------------------------------------------------
