*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21PG220SN1
* Property : Z@100MHz = 22[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21PG220SN1 port1 port2
R1 port1 1 20.23
L1 port1 1 3.864e-8
C1 port1 2 8.193e-13
R2 1 2 9.170
L2 1 2 1.188e-7
R3 2 3 1.773e+5
L3 2 3 7.514e-10
R4 3 port2 3.000e-3
.ENDS BLM21PG220SN1
*----------------------------------------------------------------------
