*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM31SN500SN1
* Property : Z@100MHz = 50[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM31SN500SN1 port1 port2
R1 port1 1 1.000e-3
L1 port1 1 5.940e-5
C1 port1 2 2.470e-12
R2 1 2 19.30
L2 1 2 1.240e-8
R3 2 3 49.80
L3 2 3 2.370e-7
R4 3 port2 1.000e-3
.ENDS BLM31SN500SN1
*----------------------------------------------------------------------
