*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/X7R/4.7uF/16V
* Murata P/N :GRM21BR71C475KE51
* Property : C = 4.7[uF]
* Data Generated on Aug 1, 2022
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM21BR71C475KE51_DC0V_25degC port1 port2
C1 port1 11 3.52e-6
L2 11 12 1.04e-10
R3 12 13 3.69e-3
C4 13 14 5.83e-5
R4 13 14 95.3
C5 14 15 1.34e-4
R5 14 15 4.21
C6 15 16 1.10e-4
R6 15 16 4.75e-1
C7 16 17 9.23e-5
R7 16 17 5.65e-2
C8 17 18 7.70e-5
R8 17 18 6.73e-3
L9 18 19 7.86e-12
R9 18 19 4.04e-2
L10 19 20 2.45e-11
R10 19 20 2.55e-2
L11 20 21 2.68e-10
R11 20 21 2.22e-2
C12 21 22 1.02e-5
L12 21 22 5.22e-11
R12 21 22 5.91e-3
C13 22 23 6.29e-6
L13 22 23 4.32e-11
R13 22 23 6.03e-3
C14 23 24 1.50e-11
L14 23 24 5.47e-11
R14 23 24 9.30
C15 24 port2 1.96e-12
L15 24 port2 1.18e-10
R15 24 port2 21.3
R100 port1 11 1.06e+7
.ENDS GRM21BR71C475KE51_DC0V_25degC