*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/X7R/0.1uF/50V
* Murata P/N :GCD21BR71H104KA01
* Property : C = 0.1[uF]
* Data Generated on Nov 6, 2018
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCD21BR71H104KA01_DC0V_25degC port1 port2
C1 port1 11 1.00e-7
L2 11 12 2.09e-10
R3 12 13 9.83e-3
C4 13 14 1.17e-5
R4 13 14 340
C5 14 15 1.53e-5
R5 14 15 40.9
C6 15 16 1.28e-5
R6 15 16 7.61
C7 16 17 1.05e-5
R7 16 17 9.32e-1
C8 17 18 7.79e-6
R8 17 18 1.18e-1
C9 18 19 5.88e-6
R9 18 19 1.43e-2
L10 19 20 1.88e-10
R10 19 20 1.03e-1
L11 20 21 2.14e-12
R11 20 21 9.26e-3
C12 21 22 2.84e-7
L12 21 22 5.41e-11
R12 21 22 6.94e-2
C13 22 23 1.79e-7
L13 22 23 3.93e-11
R13 22 23 6.44e-2
C14 23 24 1.37e-11
L14 23 24 5.41e-11
R14 23 24 5.80
C15 24 port2 5.32e-12
L15 24 port2 5.50e-11
R15 24 port2 7.02
R100 port1 11 5.00e+9
.ENDS GCD21BR71H104KA01_DC0V_25degC