*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :0603M(0201)/X7R/10000pF/16V
* Murata P/N :GRM033R71C103KE14
* Property : C = 10000[pF]
* Data Generated on Nov 6, 2018
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM033R71C103KE14_DC0V_25degC port1 port2
C1 port1 11 9.74e-9
L2 11 12 2.04e-10
R3 12 13 6.23e-2
C4 13 14 9.09e-7
R4 13 14 4.38e+3
C5 14 15 1.80e-6
R5 14 15 373
C6 15 16 2.34e-6
R6 15 16 60.5
C7 16 17 1.56e-6
R7 16 17 25.8
C8 17 18 2.10e-6
R8 17 18 3.48
C9 18 19 1.22e-6
R9 18 19 1.82
C10 19 20 1.40e-6
R10 19 20 3.62e-1
C11 20 21 8.67e-7
R11 20 21 1.84e-1
C12 21 22 6.13e-7
R12 21 22 3.96e-2
L13 22 23 2.26e-11
R13 22 23 1.43
L14 23 24 2.93e-11
R14 23 24 2.31e-1
C15 24 port2 3.78e-9
L15 24 port2 3.69e-11
R15 24 port2 5.81e-2
R100 port1 11 2.00e+9
.ENDS GRM033R71C103KE14_DC0V_25degC