*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/C0G/33pF/50V
* Murata P/N :GJM1555C1H330FB01
* Property : C = 33[pF]
* Data Generated on Jan 10, 2017
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100MHz-8.5GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GJM1555C1H330FB01_DC0V_25degC port1 port2
C1 port1 11 3.30e-11
L2 11 12 2.38e-10
R3 12 13 7.10e-2
C4 13 14 1.29e-10
L4 13 14 1.55e-11
R4 13 14 5.64
C5 14 15 4.28e-11
L5 14 15 1.89e-11
R5 14 15 14.6
C6 15 16 1.11e-10
L6 15 16 3.58e-12
R6 15 16 3.06
C7 16 port2 8.90e-12
L7 16 port2 3.12e-11
R7 16 port2 1.00e+5
R100 port1 11 1.00e+10
.ENDS GJM1555C1H330FB01_DC0V_25degC