*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :3216M(1206)/X7R/10uF/25V
* Murata P/N :GRM31CR71E106KA12
* Property : C = 10[uF]
* Data Generated on Mar 14, 2018
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM31CR71E106KA12_DC0V_25degC port1 port2
C1 port1 11 7.09e-6
L2 11 12 1.66e-10
R3 12 13 3.46e-3
C4 13 14 1.83e-4
R4 13 14 29.0
C5 14 15 2.14e-4
R5 14 15 2.30
C6 15 16 2.00e-4
R6 15 16 2.42e-1
C7 16 17 1.64e-4
R7 16 17 2.96e-2
C8 17 18 1.90e-4
R8 17 18 3.19e-3
L9 18 19 1.39e-11
R9 18 19 7.13e-2
L10 19 20 4.75e-11
R10 19 20 3.32e-2
L11 20 21 3.34e-10
R11 20 21 1.93e-2
C12 21 22 2.36e-5
L12 21 22 7.63e-11
R12 21 22 7.27e-3
C13 22 23 8.63e-6
L13 22 23 9.88e-11
R13 22 23 8.31e-3
C14 23 24 2.10e-11
L14 23 24 5.85e-11
R14 23 24 9.62
C15 24 port2 1.69e-12
L15 24 port2 2.60e-10
R15 24 port2 106
R100 port1 11 5.00e+6
.ENDS GRM31CR71E106KA12_DC0V_25degC