*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/X7R/1uF/35V
* Murata P/N :GRM219R7YA105KA12
* Property : C = 1[uF]
* Data Generated on Jan 8, 2019
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM219R7YA105KA12_DC0V_25degC port1 port2
C1 port1 11 9.48e-7
L2 11 12 1.83e-10
R3 12 13 5.36e-3
C4 13 14 1.30e-4
R4 13 14 10.3
C5 14 15 1.10e-4
R5 14 15 1.25
C6 15 16 9.08e-5
R6 15 16 1.74e-1
C7 16 17 7.70e-5
R7 16 17 2.35e-2
C8 17 18 1.07e-4
R8 17 18 3.41e-3
L9 18 19 1.83e-11
R9 18 19 7.06e-2
L10 19 20 1.83e-10
R10 19 20 4.20e-2
C11 20 21 3.95e-6
L11 20 21 3.62e-11
R11 20 21 1.07e-2
C12 21 22 1.04e-6
L12 21 22 6.33e-11
R12 21 22 1.81e-2
C13 22 23 1.46e-11
L13 22 23 4.27e-11
R13 22 23 6.55
C14 23 port2 5.92e-12
L14 23 port2 5.78e-11
R14 23 port2 8.30
R100 port1 11 5.00e+8
.ENDS GRM219R7YA105KA12_DC0V_25degC