*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :3216M(1206)/X7R/22uF/10V
* Murata P/N :GRM31CR71A226KE15
* Property : C = 22[uF]
* Data Generated on Mar 6, 2017
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM31CR71A226KE15_DC0V_25degC port1 port2
C1 port1 11 1.57e-5
L2 11 12 9.52e-11
R3 12 13 2.55e-3
C4 13 14 3.18e-4
R4 13 14 17.9
C5 14 15 4.26e-4
R5 14 15 1.19
C6 15 16 4.20e-4
R6 15 16 1.20e-1
C7 16 17 3.56e-4
R7 16 17 1.44e-2
C8 17 18 3.23e-4
R8 17 18 1.57e-3
L9 18 19 1.93e-11
R9 18 19 3.44e-2
L10 19 20 6.02e-11
R10 19 20 2.23e-2
L11 20 21 4.30e-10
R11 20 21 1.41e-2
C12 21 22 4.06e-5
L12 21 22 9.85e-11
R12 21 22 4.28e-3
C13 22 23 1.86e-5
L13 22 23 1.03e-10
R13 22 23 4.54e-3
C14 23 24 1.94e-11
L14 23 24 6.62e-11
R14 23 24 11.5
C15 24 port2 1.29e-12
L15 24 port2 3.27e-10
R15 24 port2 94.9
R100 port1 11 2.27e+6
.ENDS GRM31CR71A226KE15_DC0V_25degC