*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :3225M(1210)/X5R/47uF/16V
* Murata P/N :GRM32ER61C476ME15
* Property : C = 47[uF]
* Data Generated on Jan 10, 2017
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100Hz-6GHz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM32ER61C476ME15_DC0V_25degC port1 port2
C1 port1 11 4.01e-5
L2 11 12 6.33e-11
R3 12 13 1.13e-3
C4 13 14 1.55e-3
R4 13 14 3.20
C5 14 15 1.73e-3
R5 14 15 3.03e-1
C6 15 16 1.60e-3
R6 15 16 3.49e-2
C7 16 17 1.63e-3
R7 16 17 3.19e-3
C8 17 18 3.24e-3
R8 17 18 1.44e-4
L9 18 19 6.32e-12
R9 18 19 1.87e-2
L10 19 20 4.57e-11
R10 19 20 1.50e-2
L11 20 21 5.36e-10
R11 20 21 1.05e-2
C12 21 22 6.25e-5
L12 21 22 2.04e-10
R12 21 22 5.19e-3
C13 22 23 8.60e-5
L13 22 23 6.86e-11
R13 22 23 3.61e-3
C14 23 24 2.85e-11
L14 23 24 6.23e-11
R14 23 24 5.35
C15 24 port2 1.93e-12
L15 24 port2 2.67e-10
R15 24 port2 66.8
R100 port1 11 1.06e+6
.ENDS GRM32ER61C476ME15_DC0V_25degC