*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Aluminum Electrolytic Capacitor
*
*  Parts No. EEETC1V221P
*---------------------------------------------------------------
*  Capacitance : 220 uF , Rated Voltage : 35 V
*  ESR Max. : 150 mohm
*
*  1  o---||---o  2
*
*  Conditions : Temperature = 20 degC , DC Bias = 0 V
*
*---------------------------------------------------------
.SUBCKT	EEETC1V221P	1	2
R1	1	3	1.34E-04
R2	3	4	2.83E-02
R3	4	5	3.17E-01
R4	5	6	1.62E+02
R5	6	7	1.00E-04
C1	3	8	6.17E-05
C2	4	8	1.28E-04
C3	5	8	3.07E-05
C4	6	8	3.75E-07
C5	7	8	6.64E-06
R6	8	9	8.50E-02
R7	9	10	2.08E+02
R8	10	11	2.37E+00
R9	11	12	2.03E+00
R10	12	13	4.25E+00
L1	9	2	4.45E-09
L2	10	2	1.00E-13
L3	11	2	1.00E-13
L4	12	2	1.00E-13
L5	13	2	1.00E-13
.ENDS			
*$			
